US08110687B2
A solution of N-(3-tert-butylphenyl)-7-[(2-isocyanatopyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxamide (250 mg, 0.56 mmol), [(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]methanol (150 mg, 1.13 mmol) and pyridine (0.091 mL, 1.13 mmol) in THF (10 mL) was allowed to stir at rt. After 2 h, additional pyridine (0.14 mL) and [(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]methanol (0.220 mg) were added. The reaction mixture was heated at 70° C. overnight and then another portion of pyridine (0.10 mL) and [(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]methanol (0.150 mg g) were added. Heating continued for an additional 2 h and then the reaction mixture was subjected to MWI at 135° C. for 5 min. The reaction mixture was diluted with EtOAc and washed with water and brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give [(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl {4-[(7-{[(3-tert-butylphenyl)amino]carbonyl}-5,6,7,8-tetrahydronaphthalen-2-yl)-oxy]pyridin-2-yl}carbamate (290 mg, 89%) as a white solid. LCMS: (FA) ES+574.4.

reactant | N-(3-tert-butylphenyl)-7-[(2-isocyanatopyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 0.56 mmol, 250 mg | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)N=C=O | C27H27N3O3
reactant | [(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]methanol | 1.13 mmol, 150 mg | CC1(OC[C@@H](O1)CO)C | C6H12O3
reactant | pyridine | 1.13 mmol, 0.091 mL | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 0.14 mL | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 0.10 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | [(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]methanol | 0.220 mg | CC1(OC[C@@H](O1)CO)C | C6H12O3
catalyst | [(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]methanol | 0.150 mg | CC1(OC[C@@H](O1)CO)C | C6H12O3
product | [(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl {4-[(7-{[(3-tert-butylphenyl)amino]carbonyl}-5,6,7,8-tetrahydronaphthalen-2-yl)-oxy]pyridin-2-yl}carbamate | 290 mg, 89% | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CCC=2C=CC(=CC2C1)OC1=CC(=NC=C1)NC(OC[C@@H]1OC(OC1)(C)C)=O | C33H39N3O6
